US08202868B2
b.2.2: {4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}methyl-carbamic acid tert-butyl ester
13.1 g of {4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-4-oxo-butyl}-methyl-carbamic acid tert-butyl ester (27.66 mmol) were dissolved in 250 ml of tetrahydrofuran. 44.9 g of borane in tetrahydrofuran (522.44 mmol) were added dropwise within 25 min. and then the reaction mixture was heated to reflux for 1.5 h. The reaction mixture was poured onto water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using dichloromethane-methanol (0-5%) as eluent. Fractions containing the product were combined and the solvent evaporated to yield 8.2 g of the title compound.

reactant | {4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-4-oxo-butyl}-methyl-carbamic acid tert-butyl ester | 27.66 mmol, 13.1 g | C(C)(C)(C)OC(N(C)CCCC(=O)N1CCN(CC1)C1=NC(=NC(=C1)C1CCC1)C(C)(C)C)=O | C26H43N5O3
reactant | borane | 44.9 g | B | BH3
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 522.44 mmol | O1CCCC1 | C4H8O
product | {4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}methyl-carbamic acid tert-butyl ester | 8.2 g | C(C)(C)(C)OC(N(C)CCCCN1CCN(CC1)C1=NC(=NC(=C1)C1CCC1)C(C)(C)C)=O | C26H45N5O2
